US05089504
A. Preparation of 3-butyryl-4-(2-methylphenylamino)quinoline-8-carbaldehyde
Oxalyl chloride (18.22 g, 0.144 mol) in dichloromethane (180 ml, dried over molecular sieves) was cooled to -70° C., and a solution of dimethylsulphoxide (13.08 g, 0.168 ml) in dry dichloromethane (20 ml) added dropwise under nitrogen with stirring, keeping the temperature below -60° C. After 30 minutes, a solution of 3-butyryl-4-(2-methylphenylamino)-8-hydroxymethylquinoline (40 g, 0.12 mol) in dry dichloromethane (700 ml was added dropwise below -60° C. After a further 30 minutes, triethylamine (102 ml) was added dropwise, and the mixture allowed to warm to room temperature, washed with water and dried (Na2SO4). The filtered solution was evaporated to a yellow oil, which crystallized on trituration with ether to give the title compound (33.02 g), m.p. 142°-4°.

reactant | Oxalyl chloride | 0.144 mol, 18.22 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulphoxide | 0.168 ml, 13.08 g | CS(=O)C | C2H6OS
reactant | 3-butyryl-4-(2-methylphenylamino)-8-hydroxymethylquinoline | 0.12 mol, 40 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)CO | C21H22N2O2
reactant | triethylamine | 102 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-butyryl-4-(2-methylphenylamino)quinoline-8-carbaldehyde | 33.02 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)C=O | C21H20N2O2
